US04948794
c. 4-Methylbenzo[f]quinoxaline-2,3(1H,4H)-dione (Compound 13)
In exactly the same manner 4-cyclohexylbenzo[f]quinoxaline-2,3(1H,4H)-dione was made from 6-bromo-2-cyclohexylbenzo[f]-quinoxaline. M.p. 288° C. (Compound 27k).

reactant | 4-cyclohexylbenzo[f]quinoxaline-2,3(1H,4H)-dione | C1(CCCCC1)N1C(C(NC=2C3=C(C=CC12)C=CC=C3)=O)=O | C18H18N2O2
reactant | 6-bromo-2-cyclohexylbenzo[f]-quinoxaline | BrC=1C2=C(C=3N=C(C=NC3C1)C1CCCCC1)C=CC=C2 | C18H17BrN2
product | 4-Methylbenzo[f]quinoxaline-2,3(1H,4H)-dione | CN1C(C(NC=2C3=C(C=CC12)C=CC=C3)=O)=O | C13H10N2O2
